US07365065B2
Acetyl chloride (410 mg, 5.2 mmol) and triethylamine (620 mg, 6.2 mmol) were added to a solution of 3-aminoquinoline (710 mg, 4.9 mmol) in dichloromethane (50 ml) and the mixture was stirred at room temperature for 18 h. Chloroform (100 ml) was added, the mixture acidified with 1N hydrochloric acid (50 ml) and the phases separated. The aqueous phase was basified with 1N sodium hydroxide solution and extracted with chloroform/IPA (85:15, 175 ml). The organic extract was washed with water, brine, dried and reduced to afford 3-acetamidoquinoline (780 mg, 84%) as a yellow solid.

reactant | Acetyl chloride | 5.2 mmol, 410 mg | C(C)(=O)Cl | C2H3ClO
reactant | triethylamine | 6.2 mmol, 620 mg | C(C)N(CC)CC | C6H15N
reactant | 3-aminoquinoline | 4.9 mmol, 710 mg | NC=1C=NC2=CC=CC=C2C1 | C9H8N2
reactant | hydrochloric acid | 1N, 50 ml | Cl | ClH
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | Chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-acetamidoquinoline | 780 mg, 84% | C(C)(=O)NC=1C=NC2=CC=CC=C2C1 | C11H10N2O
